US05051508
2-Methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline (2.70 g, 10 mmol) and 2-methoxyaniline hydrochloride (1.60 g, 10 mmol) in 1-butanol (40 ml) were heated at reflux for 6 hours then the solvent evaporated, the crude product taken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Trituration with ether and recrystallisation from aqueous methanol gave 1-(2-methoxyphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline (0.62 g, 19%), m.p. 168°-169°.

reactant | 2-Methyl-3-(2-chloroethyl)-4-chloro-8-methoxyquinoline | 10 mmol, 2.70 g | CC1=NC2=C(C=CC=C2C(=C1CCCl)Cl)OC | C13H13Cl2NO
reactant | 2-methoxyaniline hydrochloride | 10 mmol, 1.60 g | Cl.COC1=C(N)C=CC=C1
solvent | 1-butanol | 40 ml | C(CCC)O | C4H10O
product | 1-(2-methoxyphenyl)-4-methyl-6-methoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 0.62 g, 19% | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC)C | C20H20N2O2
